* Z:\home\mainster\CODES_local\LTSpice_projects\mosfet_overview_koblitz.asc
M91 +5V G1 0 0 Nx
V1 G1 0 PULSE(0 4 0 100m)
J91 N004 N006 0 NJFx
V2 N006 0 PULSE(-3 .3 0 100m)
XU2 N004 vdc_single V=5V
V3 G2 +5V PULSE(-4 0 0 100m)
M92 0 G2 +5V +5V Px
V4 co 0 PULSE(-4 4 0 100m)
V5 N001 0 SINE(0 1 1k)
J1 0 P001 N005 PJF
XU4 N005 vdc_single V=5V
V6 P001 N005 PULSE(-4 0 0 100m)
B§ID1 N002 0 I=K*(V(G1,0)-Vp)**2*buf(V(G1)-Vp+.5)
R1 N002 0 {r0}
R§ID2 +5V N002 100e-6
B§ID3 Vpl 0 I=K*(V(G2,Vpl)+Vp)**2*inv(V(G2,Vpl)+Vp+.5)
R2 0 Vpl {r0}
XU5 +5V vdc_single V=5V
R§ID4 +5V Vpl 100e-6
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.mos
.model Nx NMOS(KP=2m VT0=2 )
* .dc v2 -3 0.3 0.01
.model njfx njf(beta=1m VT0=-2 )
* KP = 2*K\nVT0 = VP
* beta = K\nVT0 = VP
* .dc v3 -4 0 .01
.model Px PMOS(KP=2m VT0=-2)
* KP= 2*K\nVT0 = VP
* .dc v1 0 4 0.01
.tran 100m
.model pjfx pjf(beta=1m VT0=-2)
* .dc v2 -0.5 4 10m
* beta= K\nVT0 = ??VP\nVorsicht!\nVT0 negativ\nangeben
.param r0=1meg
.param VT0=2
.param VP=VT0
.param KP = 2m
.param K = Kp/2
.lib EIT_sub/vdc_single.sub
.backanno
.end
