* Z:\media\raid0\data_raid_back\mainster\DATAPOOL\TRANSFER\CODES\LTSpice_projects\ortskurve_parallelschwingkreis.asc
R1 b N001 {RC}
C1 a N001 700nF
V1 a 0 SINE(0 10m {Freq}) AC 1
L1 a N002 1mH
R2 N002 N003 {RL}
R3 b 0 {Rm}
R4 N003 b {RL2}
.param t0=2u
.tran 0 {t0+10/freq} {t0}
.step oct param freq 1k 8k 100
.param Rm=0.25
.param RC=2
.param RL=2
.step param RL2 list 1m 10
* .step param RL 7 12 .5\n;ac dec 1k 10k 10\n;step param f list 2240 3920 5040 5376 5712 6048 6720 8400
.meas Aavg avg V(a)
.meas Bavg avg V(b)
.meas Are avg (V(a)-Aavg)*cos(360*time*Freq)
.meas Aim avg -(V(a)-Aavg)*sin(360*time*Freq)
.meas Bre avg (V(b)-Bavg)*cos(360*time*Freq)
.meas Bim avg -(V(b)-Bavg)*sin(360*time*Freq)
.meas GainMag param 20*log10(hypot(Are,Aim)/hypot(Bre,Bim))
.meas GainPhi param mod(atan2(Aim,Are)-atan2(Bim,Bre)+180,360)-180
.backanno
.end
