* Z:\home\mainster\CODES_local\LTSpice_projects\rlc_stoch.asc
R1 N001 c+ {R}
L1 c- 0 {L}
C1 c+ c- {C}
V1 N001 0 0 AC 1
.param bandp=1
+ R=1k
+ L=100u
+ C=10n
.ac oct 200 1k 100meg
.backanno
.end
