* Z:\home\mainster\CODES_local\LTSpice_projects\schaltwandler_uebersicht.asc
L1 s1 a1 {L1}
C1 a1 0 {Ca} Rser=.1
R1 N001 0 {RL}
D1 0 s1 Dx
I1 a1 0 {Ia}
S1 e s1 N003 0 SWx
V1 N003 0 PULSE(0 2.5 1u 1p 1p {p*T} {T}) Rser={Ri}
XU1 gnd2 vdc_single V=1u
XU2 e vdc_single V={Ve}
XU3 p vdc_single V={p}
.model D D
.lib Z:\home\mainster\.wineSpice\drive_c\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.meas TRAN  ILmax MAX   I(L1)
.meas TRAN  ILmin MIN   I(L1)
.meas TRAN  dIL   PARAM ILmax-ILmin
 
.meas TRAN  ICmax MAX   I(C1)
.meas TRAN  ICmin MIN   I(C1)
 
.meas TRAN  t1    time  when I(C1)=ICmax cross=last
.meas TRAN  t01  time  when I(C1)=0 rise=last
.meas TRAN  t02  time  when I(C1)=0 fall=last
 
.meas TRAN  dtc1     PARAM t1-t01 
.meas TRAN  dtc2     PARAM t02-t1 
.meas TRAN  A1       PARAM 1/2*dtc1*ICmax 
.meas TRAN  A2       PARAM 1/2*dtc2*ICmax
.meas TRAN charge PARAM A1+A2 
.meas TRAN Vr_calc PARAM {charge/Ca}
 
.meas TRAN Vr PP V(a)
* .param T=20u \n.param Ca=220u\n.param L = 50uH \n.param RL=7.13\n.param Vd0 = .8V\n.param p={(Va+Vd0)/(Ve+Vd0)}\n.param Va = 5V\n.param Ve = 15V
;~~~ Model parameters ~~~
.param Id0=10A
.param VT=26mV
.param n=1.2
.param Isd2=Id0/exp( Vd0/( n*VT ) )
 
.model swx SW (Ron=1m Roff=1T Vt=1.25 Vh=-0.5)
.model Dx   D (Ron=1m Roff=1T Vfwd={Vd0})
.model Dx2 D (Is={Isd2} N={n})
.param 
+ Ve = 12V
+ Va = 5V
+ Vd0 = 0.5V
+ T = 20us
+ L1 = 100uH  
+ Ca = 20µF
+ Cpar = 200pF
+ t1 = p*T
+ Ia1 = 1A
+ p = 0.3 
 
+ ILmax1 = Ve/20uH*t1
;+ L1= Ve*t1/(( ILmax1-IL_diff))
 
+ Ia = Ia1
+ Ri = 1u
+ RL = 10
.tran 25m
* .op
.step param p .1 1 .1
.lib EIT_sub/vdc_single.sub
.backanno
.end
