* Z:\media\storage\CODES_ln\LTSpice_projects\systemeDiff.asc
C1 0 sys1 10µ
R1 sys1 N001 100
R2 N002 sys2 100
C2 0 sys2 10µ
V1 N002 0 PULSE(0 1 10m 10n 10n 10m 20m)
V2 N001 0 PULSE(0 2 10m 10n 10n 10m 20m)
C3 0 sys3 10µ
R3 sys3 N003 100
R4 N004 sys4 100
C4 0 sys4 10µ
V3 N004 0 PULSE(0 1 10m 10n 10n 10m 20m)
V4 N003 0 PULSE(0 2 10m 10n 10n 10m 20m)
.tran 100m
.backanno
.end
