* Z:\home\mainster\CODES_local\LTSpice_projects\tor_ctrl.asc
V1 N002 0 PULSE(0 {Vctrl} {delay} 10n 10n .3m 9.7m)
XU1 Anwender Anwender Anwender NC_01 DC JKFF_no TD=10ns
B1 N001 0 V=abs(V(anwender))
V2 N002 Anwender PULSE(0 {Vctrl} {4*delay} 10n 10n .3m 9.7m)
XU2 N001 N001 N001 NC_02 UC JKFF_no TD=10ns
XU3 DC DC! probe_dig T=0
XU4 UC UC! probe_dig T=1
.tran 30m
.param eltako=1
+ delay = 1m
+ Vctrl = 24V
+ vpwr$_digital = 10V
* Eltako DC
* Eltako UC
.lib EIT_sub\FF_and_Counters.sub
.lib EIT_sub\probe_dig.sub
.backanno
.end
