* Z:\home\mainster\CODES_local\LTSpice_projects\variable_zener_npn.asc
R1 N001 N004 {Rc}
R2 N004 N005 {R1}
R3 N005 0 {R2}
Q1 N004 N005 0 0 NPNx
XU1 N001 vdc_single V={Ve}
B§Ic1 N002 0 I={Ic1}
R4 0 N002 1
B1 Vz 0 V={VzaS}
B§Ic1B N003 0 I={Ic1B}
R5 0 N003 1
B2 Vzb 0 V={Vzbe}
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
* .tran 1
.model npnx npn (Is={Ic0/exp(Vbe0/26m)} Bf={beta})
.param MATLAB_PARAM=1
+ Ve = 5V
+ Rc = 1k
+ R1 = 3513
+ R2 = 4.7k
+ Vbe0 = .65V
+ Ic0 = 3.88mA
+ beta = 200
+ alpha ={ beta/(beta + 1) }
+ Vzbe = { Ve*(1-1/(1+alpha*R1/Rc*(1/alpha-1))) - Vbe0*( Rc/R2- ( (Rc+R1)/R2+1 ) / ( 1+alpha*R1/Rc*(1/alpha-1)) ) }
.param Ic1 =   ( Ve-Vbe0/R2*(Rc+R1+R2) ) / (Rc-R2/beta+1/beta*(Rc+R1+R2) )
.param Ic1B = ( Ve-Vbe0*( Rc/R2+R1/R2+1 ) ) / (Rc/alpha+R1*(1/alpha-1))
.param Vza  = Ve-( Rc/R2*Vbe0+ (1+1/beta)*Rc *Ic1 )
.param VzaS = (R1*R2*Ve + R2*Rc*Vbe0 + R1*Rc*Vbe0*beta + R2*Rc*Vbe0*beta)/(R2*(R1 + Rc + Rc*beta))
 
.param Vzb= Ve*(1-1/(1+alpha*R1/Rc*(1/alpha-1))) - Vbe0*( Rc/R2- ( (Rc+R1)/R2+1 ) / ( 1+alpha*R1/Rc*(1/alpha-1)) )
.param VzbS= (Vbe0*(R2 + R1*alpha))/R2 + (R1*(alpha - 1)*(R2*Vbe0 - R2*Ve + R1*Vbe0*alpha))/(R2*(R1 + Rc - R1*alpha))
* .param MATLAB_PARAM=0\n+ Ve = 5V\n+ Rc = 1k\n+ R1 = 2u\n+ R2 = 2m\n+ R3 = 2k\n+ R4 = 4.7meg\n+ failalNull = {betaFAULTnull/(beta + 1)}\n+ Vbe0 = 0.65V\n+ Vbe02 = .65V\n+ Vbe03 = 650mV\n+ Vbe04 = 650.mV\n+ Ic0 = 3.88mA\n+ Ic0test = 3.88m\n+ beta = 200\n+ alpha = {beta/(beta + 1)}\n+ alpha2 = {beta/(beta + 1)}\n+ failal = {betaFAULT/(beta + 1)}
* *********************************************************************************\nhttp://www.raffia.ch/?opv_und_transistor\n**********************************************************************************\n(B) Spannungsgegenkopplung mit R1 und R2\nDer T. stellt UCE so ein, dass der Spannungsabfall an R2 ? 0,7 V wird.\n UCE ? 0,7 * [(R1 / R2) + 1] falls R2 << re
.step param R2 100 10k 500
.op
.lib EIT_sub/vdc_single.sub
.backanno
.end
