* Z:\home\mainster\CODES_local\LTSpice_projects\BuckBoostInv_swconverter\buck_labor_ft2.asc
L1 sw_buck out_buck {L1}
D1 0 sw_buck Dx
CA ca 0 {CA}
Rs1 out_buck ca {Rs}
Rpar1 sw_buck 0 20k
Cpar1 sw_buck 0 400p
RL out_buck N002 {RL}
S1 E sw_buck p 0 sw
V1 E 0 20 Rser=1m
V2 p 0 PULSE(0 1 0 {trf} {trf} {p/(fsw)} {1/(fsw)})
I1 out_buck 0 {IL}
S2 N002 0 sw_load 0 sw
V3 sw_load 0 PULSE(0 1 3m {trf} {trf} 3m)
E1 N001 0 out_buck 0 1
R1 out_buck_fil N001 330
C2 out_buck_fil 0 100n
E2 As 0 sw_load 0 Laplace=(1+s*Rs*CA)/(1+s*(Rs*Ca+L1/RL)+s**2*L1*CA*(1+Rs/RL))
L2 S_lin out_Lin {L1}
CA1 ca_Lin 0 {CA}
Rs2 out_Lin ca_Lin {Rs}
RL1 out_Lin N003 {RL}
V4 S_lin 0 4.7
I3 out_Lin 0 {IL}
S3 N003 0 sw_load 0 sw
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model sw  vswitch {Roff=1T Ron=1m Von=0.7 Voff=0.3 vh=-0.5}
.param fsw={1/33.3u}
.param RL=10
.param trf=100n
.param Rs=200m
.param L1=100u
.param CA=100u
.param p=0.25
.param IL=1
.param N=4
;.tran 0 20m {20m-N*33.3u}
.tran 0 10m
;ac oct 100 1 1meg
* .step param Rs list 100m 1m 500u
.model Dx D {Ron=1m Roff=1T Vfwd=0.4}
* .step param Rs list 1p 200m
.step param RL list 1T 10 5 2
.backanno
.end
