* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\Butterworth Filter\butterworth_2.asc
XU1 N004 f2 VP VM f2 level.1 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 VP 0 10
V2 in 0 AC 1
V3 0 VM 10
R2 N003 in 16k
R3 N004 N003 16k
C4 N004 0 2.55n
C1 f2 N003 5.1n
XU2 N002 f1 VP VM f1 level.1 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N001 in 5.6k
R4 N002 N001 2.7k
C2 N002 0 10n
C3 f1 N001 22n
.step dec param w 10 1000k 100
.ac list {w/(2*pi)}
* Laplace=1/(s^2/100000000+s/5000+1)
.lib UniversalOpamps2.sub
.backanno
.end
