* Z:\home\mainster\CODES_local\LTSpice_projects\EAS_Labor1\Sourcefolger.asc
V1 VCC1 0 10
R1 VCC1 NMOS_D {RD1}
V2 Vg 0 2.405
R2 N001 Vg 1n
XM1 NMOS_D N001 0 BS170
J1 JFET_D N006 0 NJFx
R3 VCC1 JFET_D 220
R4 N006 N005 1n
V3 in_mos 0 SINE(0 {1.41} 5k) AC 1
R6 g_mos AP_mos 47k
C1 g_mos N002 100n
V4 AP_mos 0 6.614
C2 d_mos N003 10µ
R7 d_mos 0 3.3k
XM2 VCC1 g_mos N003 BS170
V7 N005 0 0
R11 N002 in_mos 22k
Rs N003 0 2.2k
V5 in_jfet 0 AC 1
R5 g_jfet AP_jfet 47k
C3 g_jfet N007 100n
V6 AP_jfet 0 2.83
C4 d_jfet N008 10µ
R8 d_jfet 0 3.3k
R9 N007 in_jfet 22k
Rs1 N008 0 2.2k
V8 in_npn 0 SINE(0 1.41 5k) AC 1
R10 B AP_npn 47k
C5 B N011 100n
V9 AP_npn 0 5.38
C6 out N012 10µ
R12 out 0 3.3k
R13 N011 in_npn 22k
Rs2 N012 0 2.2k
Q1 VCC1 B N012 0 BC547B
J3 VCC1 g_jfet N008 BF245
R14 N010 0 22k
R15 N010 0 47k
Rpi N010 E 4.29k
G1 0 E N010 E 0.077
V10 E 0 1
R16 N004 0 22k
R17 N004 0 47k
G2 0 S N004 S 0.051
V11 S 0 1
C7 hp N009 10µ
R18 hp 0 3.3k
Rs3 N009 in_npn 2.2k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.20_stdLibEitLibs\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.20_stdLibEitLibs\lib\cmp\standard.jft
.model nmosx NMOS(KP=2m VT0=2)
.model njfx njf(beta=1m VT0=-2 )
* NMOS:  KP=2*K      VT0=Vp\nPMOS:  KP=2*K      VT0=Vp\nJFET:    BETA=K     VT0=Vp\nPJFET:  BETA=K     VT0= -Vp !!!
.param RD1=220
.SUBCKT BS170 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
.model BF245    NJF(Beta=550u Rs=1 Rd=1 Betatce=-.5 Lambda=10m Vto=-3.44
+               Vtotc=0 Cgd=5p M=.3333 Pb=1 Fc=.5 Cgs=5p Isr=1p Nr=2 Is=100f
+               N=1 Xti=3 Alpha=10u Vk=100 Kf=1E-18 Af=1)
.ac oct 100 1 10k
;dc V4 0 10
.backanno
.end
