* Z:\home\mainster\CODES_local\LTSpice_projects\EAS_Labor1\fet1\BS170_BF245_Kennwerte_fet1.asc
V1 VCC1 0 10
V2 Vg 0 2.2
R2 Vg P001 22k
J1 VCC1 N002 JFET_D NJFx
Rs JFET_D 0 {Rs}
R4 Vg N002 22k
V3 in_mos 0 SINE(0 {50m*1.41} 5k)
R6 AP_mos g_mos 47k
C1 in_mos g_mos 100µ
V4 AP_mos 0 2.2
R9 AP_jfet g_jfet 47k
C3 in_jfet g_jfet 100µ
C4 N003 d_jfet 100µ
R10 d_jfet 0 100meg
V5 in_jfet 0 SINE(0 {50m*1.41} 100)
V6 AP_jfet 0 4
J2 VCC1 g_jfet N003 BF245
C5 N001 d_mos 100µ
R12 d_mos 0 100meg
XM3 VCC1 g_mos N001 BS170
XM1 VCC1 P001 NMOS_D BS170
R1 N003 0 {Rs}
R7 N001 0 {Rs}
R5 NMOS_D 0 {Rs}
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.jft
.dc V4 0 10 0.1
.model nmosx NMOS(KP=2m VT0=2)
.model njfx njf(beta=1m VT0=-2 )
* NMOS:  KP=2*K      VT0=Vp\nPMOS:  KP=2*K      VT0=Vp\nJFET:    BETA=K     VT0=Vp\nPJFET:  BETA=K     VT0= -Vp !!!
.param Rs = 2.2k
.SUBCKT BS170 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
.model BF245    NJF(
+ Beta=550u 
+ Rs=1 
+ Rd=1 
+ Betatce=-.5 
+ Lambda=10m 
+ Vto=-3.44
+ Vtotc=0 
+ Cgd=5p 
+ M=.3333 
+ Pb=1 
+ Fc=.5 
+ Cgs=5p 
+ Isr=1p 
+ Nr=2 
+ Is=100f
+ N=1 
+ Xti=3 
+ Alpha=10u 
+ Vk=100 
+ Kf=1E-18 
+ Af=1)
* .dc V4 0 4 0.1
.backanno
.end
