* Z:\home\koblitz\Simulationsbeispiele_WS15\EAS\stromspiegel_widlar.asc
Q2 N001 N002 N003 0 CA3046
Q1 N002 N002 0 0 CA3046
R2 N003 0 {re}
I1 0 N002 1m
Vc2 N001 0 1
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
;op
.param re=1.56k
.dc Vc2 0.5 10 0.1
.step param re list 1.56k 10k
.backanno
.end
