* Z:\home\koblitz\Simulationsbeispiele_WS15\Elektronik_lab\dienstag\T1-3.asc
Q1 c b e 0 BC547B
RE e 0 {180-var*115.7}
RB c b 560k
RC N001 c 5.6k
C1 N003 b 100n
R1 N002 N003 10k
V1 N002 0 AC 1
RL out 0 {1k+var*9k}
C2 c out {c2}
C3 c b 10p
Vplus N001 0 8.36
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
;op
.param var=1 c2=1u
;dc Vplus 0 15 0.1
.ac oct 10 10 10meg
* .step param var 0 1 1
* .step param c2 list 1n 10n 100n 1u 10u 100u 1000u
.backanno
.end
