* Z:\home\koblitz\Simulationsbeispiele_WS14\Elektronik_Lab\dienstag\beta-kennlininie3.asc
Q1 N002 N001 0 0 2N4124
V1 N003 0 5
IC 0 N002 1m
G1 0 N001 N002 N003 1
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
.dc dec Ic 100n 100m 20
.step temp list 0 50 100
.backanno
.end
