* Z:\home\koblitz\Simulationsbeispiele_WS14\Elektronik_Lab\dienstag\klirr_1.asc
V1 sin 0 SINE(0 1 1k)
R1 sin out 1k
D1 out 0 D
D2 P001 out D
R2 P001 0 10k
B1 win 0 V=1-cos(2*pi*time/20.5m)
B2 out2 0 V=v(win)*v(out)
.model D D
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.dio
.tran 15m
.four 1kHz V(out)
.backanno
.end
