* Z:\home\koblitz\Simulationsbeispiele_WS14\Elektronik_Vor\q1e-stufe.asc
Q1 c b 0 0 mein_q
XU1 plus vdc_single V=5V
RC plus c 2k
I1 plus b 5µ
v1 1 0 SINE(0 1m 1k) AC 1
C1 1 b 1µ
C2 c out 1µ
RL out 0 10k
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
.op
;tran 2m
.model mein_q npn (BF=200 VAF=50)
;ac oct 10 1 1meg
.lib EIT_sub\vdc_single.sub
.backanno
.end
