* Z:\home\koblitz\Simulationsbeispiele_SS15\Elektronik_lab\dienstag\tiefpass_rc-tran.asc
C1 b 0 1n
R1 N001 b 1k
V1 N001 0 PULSE(0 5 1u 1p 1p 5u 15u) AC 1
;ac dec 20 10k 10.e+6
.tran 50u
.backanno
.end
