* Z:\home\koblitz\Simulationsbeispiele_SS15\Elektronik_lab\mittwoch\fft-1.asc
D1 out 0 1N4148
R1 N001 out 1k
V1 N001 0 SINE(0 0.5 0.93k)
V2 N002 0 SINE(0 1 1meg)
.model D D
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.dio
.tran 10m
.four  930 V(out)
.backanno
.end
