* Z:\home\koblitz\Simulationsbeispiele_SS15\Elektronik_lab\mittwoch\uk_17.asc
Q1 col bas em 0 BC547B
RB in bas 330k
RC plus col 10k
RE em 0 3k
Vin in 0 1
V1 plus 0 10
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
.dc Vin -1 6 50m
.backanno
.end
