* Z:\home\koblitz\Simulationsbeispiele_SS15\elektronik_vor\q1-basis.asc
Q1 c 0 e 0 NPNx
RC N001 c 10k
RL out 0 33k
C2 c out 10n
RE e N003 22k
V1 1 0 AC 1
R1 1 N002 100
XU1 N001 vdc_single V=10V
XU2 N003 vdc_single V=-10V
C1 N002 e 1µ
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
.model npnx  npn (is=1p BF=200 VA=50)
;op
.ac oct 5 1 100k
.lib EIT_sub\vdc_single.sub
.backanno
.end
