* Z:\home\mainster\CODES_local\LTSpice_projects\HF_technik\leitungsanpassung_skript_S74_GHET.asc
I1 0 N001 SINE(0 1.41 {f0}) AC 1
R1 N001 Z1 50
R2 Z2 c1 200
R3 0 N001 100meg
R4 0 Z2 100meg
T1 0 Z2 0 Z1 Td=0.35 Z0=50
C1 c1 0 8p
I2 0 N002 SINE(0 1.41 {f0}) AC 1
R5 N002 Z2b 50
R6 Z2b c1b 27.5
L1 c1b 0 5.25n
I3 0 aZ1 AC 1
R10 0 ZR 100meg
T2 0 ZR N003 aZ1s Td={0.25/lamb} Z0=50
R8 ZR ZL 100
L2 ZL 0 80n
T3 N003 aZ1s N004 N004 Td={0.324/lamb} Z0=50
R12 0 N004 100meg
R11 0 N003 100meg
Rsh aZ1 aZ1s 1µ
.ac oct 1001 10meg 10g
* .param f0 = 1g
.param f0 = 100meg
.param lamb = {2e8/f0}
.backanno
.end
