* Z:\media\data\CODES\LTspiceWorkspace\LTspice_projects\HF_technik_EMV\Draft2.asc
L1 a N001 300m
R1 N001 0 200
R2 a 0 40k
.ic V(a)=12V
.tran .1m
.backanno
.end
