* Z:\home\mainster\CODES_local\LTSpice_projects\HF_technik\Draft7.asc
V1 V1 0 SINE(0 {sqrt(4*Rg*1m*10**(P1_log/10)) } {f1})
R1 V1 x {Rg}
R2 x 0 {Rg}
V2 V2 0 SINE(0 {sqrt(P1*Rg/3)*0+0*sqrt(2)} {f2})
R3 V2 NC_01 {Rg}
XU1 P1 vdc_single V={P1}
V3 N001 0 SINE(0 1 {10*f1})
.param P1_log=0 ;dBm
+ P1 = {10**(P1_log/10)*1m}
+ Rg = 50
+ f1 = 100k
+ f2 = {3*f1}
.tran 0 {4/f1} {.99/f1}
.lib EIT_sub/vdc_single.sub
.backanno
.end
