* Z:\home\mainster\CODES_local\LTSpice_projects\HF_technik\KEMO_MIC_UKW_sender.asc
Q1 C1 B1 0 0 BC817-25
C1 stim in {C1}
R1 C1 B1 {R1}
R2 N001 C1 {R2}
C2 P001 B2 {C2}
C3 N001 B2 {C3}
C4 B2 0 {C4}
R3 N001 B2 {R3}
R4 B2 0 {R4}
R5 E2 0 {R5}
Q2 C2 P002 E2 0 BC337-40
L1 N001 C2 {L1} Rser=.1
C5 C2 E2 {C5}
C6 N001 C2 {C6}
C7 C2 outac {C7}
R6 outac 0 {RL}
XU2 N001 vdc_single V={Vpl}
R7 B1 0 {Rpu}
V3 stim 0 0 AC 1
R8 in B1 {Rpo}
XU3 N005 Idc_single I={Icx} Rpar=1e6
R9 N005 0 1m
XU4 N006 Idc_single I={IcxB} Rpar=1e6
R10 N006 0 1m
XU1 C1 P001 N002 jumpernew status=1
XU5 0 0 0 jumpernewInvCtrl status=1
XU6 B2 P002 N003 jumpernew status=1
XU7 N002 vdc_single V={jLoad1}
XU8 N003 vdc_single V={jLoad2}
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
* _------------------------------------------------------------------------------------\nBausatz pollin          --           UKW-Sensder\nhttp://www.pollin.de/shop/downloads/D810111B.PDF\nV+ = 9...26V\n_------------------------------------------------------------------------------------\n \nQ1: "cxo C39" equivalent NTE108\nQ2: "SF 127D 9002" HT-Transistor, laut tabelle \nErsatztyp: BC141 ersatzersatz BC337\nSelber:  BDX77
.step param x 0.1 .95 .2
.ac oct 100 10 1000meg
* .tran 0 {Tsim} {Tsim/2}
;_------------------------------------------------------------------------------------
.model npnx2 npn (Is={Ic0s/exp(Vbe0/26m)} Bf={beta})
.model npnx npn (IS=9.198E-14 NE=1.65 BF=338.8 )
;_------------------------------------------------------------------------------------
.param MATLAB_PARAM=1
+ VT = 26m
+ Vpl = 15V
+ x=.1
+ fres=1.07meg
+ fmic = 5k
+ fsw =1k
+ Rp = 10k
+ Tsim = 500m
+ Ic0s = 2mA
+ Vbe0 = .6V
+ beta = 339
+ f0 = 5k
+ C1=4.7u
+ C2=4.7u
+ C3=10p
+ C4=10p
+ C5=47p
+ C6=22p 
+ C7=87p
+ R1=120k
+ R2=4k7
+ R3=3.79k
+ R4=4k7
+ R5=1k
+ RL=10meg
+ L1v={ 1/(4*pi**2*fres**2*C6)}
+ alpha={beta/(1+beta)}
+ Ic0c ={ (Vpl-Vbe0*(1+(R1+R2)/( Rp*(1-x) ))) / 
   + (alpha*R2 + R1/beta)  }
+ L1={L1v}
+ Rpu={Rp*(1-x)}
+ Rpo={Rp*x}
.options plotwinsize=0
.model npnx2 npn (Is={Ic0s/exp(Vbe0/26m)} Bf={beta})
.model npnx npn (IS=9.198E-14 NE=1.65 BF=338.8 )
.op
.ic V(C2)=5V
.ic I(L1) = {10V/.1}
* .tran 0 10m
.param Icx = 
 + (Vpl - Vbe0/Rpu * (R1+R2+Rpu)) /
 + (R1-Rpu/beta+1/beta * (R1+R2+Rpu))
 
.param IcxB = 
 + (Vpl-Vbe0*( R1/Rpu+R2/Rpu+1 )) / 
 + (R1/alpha+R2*(1/alpha-1))
.param JUMPER=1
+ jLoad1 = 1
+ jLoad2 = 0
.lib EIT_sub/vdc_single.sub
.lib jumpernew.sub
.lib MDB_sub/Idc_single.sub
.backanno
.end
