* Z:\home\mainster\CODES_local\LTSpice_projects\HF_technik\fehlanpassung_gustrau_S107.asc
V1 N001 0 PULSE(0 1 1n 10p 10p 50n 100n)
T1 in+ 0 out+ out- Td={Td1} Z0=50
RG in+ N001 150
R1 0 in+ 10t
R2 0 out+ 10t
R3 out- 0 10t
RL out+ out- 200
V2 delay 0 {Td1}
R4 in+ 0 10t
.param len1 = 0.2
.param f = 500Meg
; Phasengeschw.(Ausbreitungsgeschw.) in Leitung [m/s]
; c = sqrt(epsilon_r)/c0 ~ 2e8
.param c0 = 3e8  ; Lichtgeschw. [m/s]
.param eps_r = 2.225  ; Dielektr. Zahl des Füllmat.
.param c = {c0 / sqrt(eps_r)}
.param lambda = {c / f}  ; Wellenlänge in [m]
.param Td1 = {len1/c}  ; = {sqrt(eps_r)*len1/c0}  propagation delay
.tran 0 400n 200n .1n
.backanno
.end
